US05409943
(a) N-[3-(2,6-Difluorobenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea
A mixture of 2-amino-3-(2,6-difluorobenzyloxy)pyridine (2.10 g, 0.009 mol), 4-chlorophenyl isothiocyanate (1.81 g, 0.01 mol) and toluene (10 ml) was refluxed for 3 hours, then cooled and treated with diethyl ether to induce crystallisation of the product. Yield 2.71 g (75%), m.p. 151°-154 ° C.

reactant | 2-amino-3-(2,6-difluorobenzyloxy)pyridine | 0.009 mol, 2.10 g | NC1=NC=CC=C1OCC1=C(C=CC=C1F)F | C12H10F2N2O
reactant | 4-chlorophenyl isothiocyanate | 0.01 mol, 1.81 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[3-(2,6-Difluorobenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea | FC1=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=C(C=C2)Cl)C(=CC=C1)F | C19H14ClF2N3OS
